US05659084
Preparation of 2-(8-phenyloctyl)benzaldehyde
To a solution of N-[(2-(8-phenyloctyl)phenyl)methylene]-1,1-dimethylethanamine (0.51 g, 0.0146 mol) in tetrahydrofuran (5 mL) was added 10% aqueous hydrochloric acid (5 mL) and the mixture stirred for 15 h at room temperature. Methylene chloride (10 mL) and water (10 mL) were added and the layers separated. The aqueous layer was extracted with methylene chloride (1×15 mL) and the combined organics were dried (magnesium sulfate), filtered and concentrated in vacuo to an oil (0.405 g, 97.4% pure by HPLC assay, 92% corrected yield): IR (neat) 2920, 2880, 1695, 1600, 1455 cm-1 ; 1H NMR (CDCl3, 400 MHz) δ 10.25 (s, 1 H), 7.80 (dd, 1 H, J=1.2 and 7.7 Hz), 7.45 (m, 1 H), 7.33-7.13 (m, 7 H), 2.98 (t, 2 H, J=7.7 Hz), 2.58 (t, 2 H, J=7.7 Hz), 1.58 (m, 4 H), 1.30 (m, 8H).

reactant | N-[(2-(8-phenyloctyl)phenyl)methylene]-1,1-dimethylethanamine | 0.0146 mol, 0.51 g | C1(=CC=CC=C1)CCCCCCCCC1=C(C=CC=C1)C=NC(C)(C)C | C25H35N
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | Methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(8-phenyloctyl)benzaldehyde | C1(=CC=CC=C1)CCCCCCCCC1=C(C=O)C=CC=C1 | C21H26O
